US05571821
N-[5-(3-thienyl)thiophene-2-sulfonyl]pyrrole was prepared in the same manner as described in Example 32C from 3-thienylboric acid and N-(5-bromothiophene-2-sulfonyl)pyrrole in quantative yield. This was purified by recrystallization using hexane/ethyl acetate as solvent.

reactant | 3-thienylboric acid | S1C=C(C=C1)OB(O)O | C4H5BO3S
reactant | N-(5-bromothiophene-2-sulfonyl)pyrrole | BrC1=CC=C(S1)S(=O)(=O)N1C=CC=C1 | C8H6BrNO2S2
product | N-[5-(3-thienyl)thiophene-2-sulfonyl]pyrrole | S1C=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1C=CC=C1 | C12H9NO2S3
